US07319103B2
4-(6,7-Dihydro-5H-1,4,8a-triaza-s-indacen-8-yl)-phenol (500 mg, 0.002 mmol) was dissolved in methanol (10 mL) followed by addition of NaI (368 mg, 2.45 mmol) and NaOH (98 mg, 2.45 mmol). The solution was cooled to 0° C. followed by dropwise addition of NaOCl (5.25% aq, 3.8 ml) over 3 minutes. The reaction mixture was stirred at 0° C. for 1 hour followed by warming to room temperature and quenching with sodium thiosulphate (saturated. aq., 6 ml). The pH of the reaction was adjusted to ˜7 by addition of sodium dihydrogen phosphate. The solution was extracted with CH2Cl2. The organic layer was dried and concentrated. The residue was purified on silica gel (10%→60% EtOAc in hexane) to give 4-(6,7-dihydro-5H-1,4,8a-triaza-s-indacen-8-yl)-2-iodo-phenol.

reactant | 4-(6,7-Dihydro-5H-1,4,8a-triaza-s-indacen-8-yl)-phenol | 0.002 mmol, 500 mg | N1=CC=C2N=C3CCCC3=C(N12)C1=CC=C(C=C1)O | C15H13N3O
reactant | NaI | 2.45 mmol, 368 mg | [Na+].[I-]
reactant | NaOH | 2.45 mmol, 98 mg | [OH-].[Na+]
reactant | NaOCl | 3.8 ml | [O-]Cl.[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 4-(6,7-dihydro-5H-1,4,8a-triaza-s-indacen-8-yl)-2-iodo-phenol | N1=CC=C2N=C3CCCC3=C(N12)C1=CC(=C(C=C1)O)I | C15H12IN3O
